Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Penicillins / codeine
 
Attending: ___.
 
Chief Complaint:
Convulsive events
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman with history of TBI ___ years
ago who presents as outside hospital transfer for further
management of seizures.  Briefly patient had TBI ___ years ago 
from
lacrosse injury as a result has residual left-sided weakness,
depression and difficulty concentrating.  Per patient's mother
___ was extremely intoxicated on ___ slipped and fell 
on
ice and hit his head.  He subsequently had 1 generalized
tonic-clonic seizures EMS was called he received Ativan and the
seizure broke.  Seizure lasted circa 15 minutes.  No head 
version
no eye deviation was noted, no tongue biting, no urinary
incontinence.  he went to the outside hospital where he had a CT
head which was negative and he was subsequently discharged home
with neuro urgent care follow-up.  Done today he visiting his
mother at work, when he began not feeling well.  He sat down and
mother noticed that he was diaphoretic and shortly after started
seizing which she describes as full body convulsions.  EMS was
called he got 4 mg of Versed intranasally but continue to see
through it.  He got Ativan and Keppra at outside hospital which
finally controlled to seizures.  he had another CT head which 
was
negative  and was subsequently transferred to ___ for further
evaluation. 

Of note parents are concerned about patient's heavy alcohol
intake per father patient has been drinking almost daily ___s hard liquor drinks for the past 6 months. 
Patient's last drink was 3 days ago.  Patient his family report
that he is currently back at his baseline. 

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Depression 
TBI
 
Social History:
___
Family History:
No history of neurological disease
 
Physical Exam:
==============
ADMISSION EXAM
==============
Physical Exam:
Vitals: T: 98.1 P:88  R: 16  BP:109/45  SaO2:99%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTAB, no increased work of breathing
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands.  The pt had good knowledge of current events. There 
was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Decreased facial sensation to light touch and pinprick on 
left
side V1 to V3.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

- Motor - Normal bulk and tone. Abnormal drift on LUE (immediate 
~purposeful fast drift then stable).
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   4+     5     4+    5     4+   4+    4+    4+    5    
 R   5      5     5     5     5    5     5     5     5    
** All above left-sided weakness is break-away/functional. 
-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         

-Sensory: Decreased sensation to light touch, pinprick  in left
upper extremity and left lower extremity. No extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF.

-Gait: Deferred

==============
DISCHARGE EXAM
==============
Unchanged. Continued giveway weakness on left side. 

 
Pertinent Results:
====
LABS
====

___ 11:40PM BLOOD WBC-5.4 RBC-4.55* Hgb-14.6 Hct-43.5 
MCV-96 MCH-32.1* MCHC-33.6 RDW-12.1 RDWSD-42.8 Plt ___
___ 06:20AM BLOOD WBC-5.1 RBC-4.34* Hgb-14.4 Hct-42.2 
MCV-97 MCH-33.2* MCHC-34.1 RDW-12.4 RDWSD-44.2 Plt ___
___ 11:40PM BLOOD Neuts-51.4 ___ Monos-11.0 Eos-1.7 
Baso-0.9 Im ___ AbsNeut-2.79 AbsLymp-1.89 AbsMono-0.60 
AbsEos-0.09 AbsBaso-0.05
___ 06:20AM BLOOD Plt ___
___ 11:40PM BLOOD Plt ___
___ 02:54PM BLOOD Glucose-98 UreaN-5* Creat-0.8 Na-138 
K-4.2 Cl-104 HCO3-24 AnGap-14
___ 06:20AM BLOOD Glucose-76 UreaN-11 Creat-0.8 Na-138 
K-4.1 Cl-100 HCO3-20* AnGap-22*
___ 11:40PM BLOOD Glucose-76 UreaN-14 Creat-0.7 Na-134 
K-3.8 Cl-100 HCO3-23 AnGap-15
___ 02:54PM BLOOD CK(CPK)-100
___ 11:40PM BLOOD ALT-46* AST-46* TotBili-1.1
___ 06:20AM BLOOD GGT-28
___ 11:40PM BLOOD Lipase-23
___ 02:54PM BLOOD Calcium-9.4 Phos-3.6 Mg-2.0
___ 06:20AM BLOOD Phos-3.5 Mg-2.0
___ 11:40PM BLOOD Albumin-3.9
___ 11:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

=======
IMAGING
=======
- ___ MRI Brain
-There is no evidence of acute infarct, intracranial mass or 
hemorrhage 
product. 
-Nonspecific 2 punctate T2/FLAIR white matter hyperintensities 
of the right frontal lobe.  Differential considerations are 
broad in a patient of this age and may represent sequela of 
prior trauma, infectious/inflammatory etiology.  These are not 
in a distribution compatible with demyelinating process. 

===============
NEUROPHYSIOLOGY
===============
- ___ cvEEG
IMPRESSION: This continuous EEG identifies normal background 
activity during wakefulness and sleep. There are 17 pushbutton 
activations for several episodes of asynchronous extremity 
shaking with intermittent groaning, back arching, pelvic 
thrusting and eye fluttering. These episodes do not have any 
underlying ictal EEG correlate, and display semiologic features 
consistent with psychogenic nonepileptic events/seizures (PNES). 
There are no epileptiform discharges or electrographic seizures. 


-all his EEG's did not demonstrate any electrographic seizures 
with pushbutton activations.

 
Brief Hospital Course:
Mr. ___ was admitted for events concerning for seizure. He had 
multiple events while monitored on EEG, and none showed any 
evidence of epileptiform activity. The semiology of his events 
was also consistent with non-epileptic events. 

Please see the included EEG report from ___. His brain MRI was 
largely normal - other than two small punctate FLAIR 
hyperintensities consistenent with prior trauma, and of no 
clinical significance (i.e. these will not cause left-sided 
weakness or seizures). A number of psychosocial stressors were 
identified, he was seen by psychiatry, and ultimately cleared 
for discharge in his family's care. 

# PSYCHOGENIC NON-EPILEPTIC SPELLS (PNES)
___ had numerous events during his admission, some lasting 
up to 15 minutes with dramatic whole-body shaking. These *were 
not* generalized epileptic seizures on EEG. He remained mostly 
alert throughout these, remained hemodynamically stable, and 
oxygen saturation remained normal. He was often able to follow 
commands (to squeeze fingers) through these events. None of 
these features are consistent with true generalized seizures. 
**They do not require treatment with abortive medication such as 
Ativan**. **He does not require evaluation in an emergency 
department for these events**. **He should be monitored during 
them only to ensure his physical safety.**

# PSYCHIATRIC PROBLEM
Per psychiatry evaluation: 
___ is a ___ year old with history of TBI and alcohol
use with DWI 4 months ago, who presented to ___
following two seizure-like events, now with ongoing
non-epileptiform seizure-like activity. On interview, Mr. ___
endorses increased anxiety, depression, and daily alcohol use
since the end of a relationship 4 months ago. He states that
recent seizure-like events have not occurred prior to this past
week, and he is comfortable discussing the fact that they are 
not
epileptiform seizures. On mental status exam, he is somewhat
blunted appearing at first but becomes more euthymic over
interview, and describes overall depressed mood, but is linear
and organized, as well as cognitively intact. 

Diagnostically, the most pressing psychiatry problem is alcohol
use disorder.  Although the patient minimizes the problem, there
are indications that is has been present for a few years and has
accelerated in recent months.

It is challenging at this time to disentangle the effects from
the patient's TBI and alcohol use disorder on his current mood,
anxiety and episodes of seizure-like activity. 

The larger developmental context of all of his current
psychiatric symptoms should be noted as well.  Mr. ___ went
through an extended period of severe distress with what appeared
to be an extended life-threatening illness in his triplet 
sister.
He did relatively well subsequently until he lost the 
opportunity
to go to a ___ and play varsity sports because of
his various injuries. This appears to have "derailed" him and
both he and his parents say he has never fully recovered from
this loss.

EKG-telemetry findings: 
During this stay, the patient had asymptomatic episodes of 
around ___ beats without P waves on his telemetry confirmed 
with EKG. Cardiology was curbsided with this EKG - they felt 
that this was likely a junctional rhythm that overtook the 
normal sinus rhythm. Because the junctional rhythm rate was 
around the same rate as his normal rate - in the ___, there was 
no further workup or intervention needed. This was confirmed to 
be a benign finding. 

PLAN:
-Patient is amenable to alcohol rehab following hospital
discharge; this will be done as an outpatient
-Will defer initiation of psychiatric medications at this time;
as it is difficult to decipher mood/anxiety from alcohol use at
this time

He was seen subsequently by psychiatry and cleared for discharge 
home with family on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychogenic non-epileptic spells (PNES)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital for symptoms concerning for 
epileptic seizure. We monitored you on EEG and were able to 
record many of these episodes and saw no epileptic electrical 
activity with them. We identified a number of stressors and 
symptoms of depression that are frequently seen with your 
presentation of psychogenic non-epileptic spells (PNES). There 
are no medications needed to treat this condition and it is not 
inherently dangerous to your brain or body. The treatment 
involves psychology/psychiatric therapy to address the 
underlying causes, treatment of depression, and addressing 
alcohol use. For this, your family has arranged for alcohol 
rehabilitation program. 
 
Followup Instructions:
___